US04497650
2-Ethyl-4-oxo-2,3,4,10-tetrahydro-N,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide
The title compound was prepared from 2-aminobenzimidazole, methyl ethyl ketone and methyl isocyanate employing the procedure of the first paragraph of Example 1. The product was purified by column chromatography, developing with chloroform/methanol (97%/2.4% by volume), giving a tan solid, mp 113°-119° C. (dec.). The confirmatory elemental analysis is shown in Table III.

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 2-Ethyl-4-oxo-2,3,4,10-tetrahydro-N,2,3-trimethyl-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide | C(C)C1(N=C2N(C3=C(N2C(N1C)=O)C=CC=C3)C(=O)NC)C | C15H19N5O2
